US06962914B2
N-Cyclopentyl-4-[5,7-dichloro-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-pyrimidinamine (271 mg, 0.60 mmol) in cyclopropylamine (5 mL) was heated at 100° C. for 11 hours in a steel bomb. Cooled to room temperature. Ethyl acetate was added to the reaction mixture. The solution was washed with water and brine, then dried over magnesium sulfate. Filtration and concentration followed by purification with flash chromatography (4:1 hexanes/ethyl acetate) gave N-{4-[5-chloro-7-(cyclopropylamino)-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-pyrimidinyl}-N-cyclopentylamine (201 mg, yield 71%) as a yellow foam. 1H NMR (CDCl3) δ 8.02 (d, 1H), 7.96 (s, 1H), 7.56 (d, 2H), 7.01 (d, 2H), 6.42 (s, 1H), 6.37 (d, 1H), 6.32 (d, 1H), 5.12 (d, 1H), 4.15 (m, 1H), 3.91 (s, 3H), 2.70 (m, 1H), 2.08 (m, 2H), 1.82-1.59 (m, 6H), 0.95 (m, 2H), 0.80 (m, 2H); MS m/z 475 (M+1).

reactant | N-Cyclopentyl-4-[5,7-dichloro-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-pyrimidinamine | 0.60 mmol, 271 mg | C1(CCCC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=C(C=C2Cl)Cl)C2=CC=C(C=C2)OC | C23H21Cl2N5O
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | cyclopropylamine | 5 mL | C1(CC1)N | C3H7N
product | N-{4-[5-chloro-7-(cyclopropylamino)-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-pyrimidinyl}-N-cyclopentylamine | 201 mg, yield 71% | ClC1=CC=2N(C(=C1)NC1CC1)N=C(C2C2=NC(=NC=C2)NC2CCCC2)C2=CC=C(C=C2)OC | C26H27ClN6O
